US06482517B1
A similar dispersion was prepared with the use of PLURONIC F-68 as stabilizer. An amount of 0.152 grams of leucine hydrochloride was added to 0.852 grams of nanostructured reverse bicontinuous cubic phase material as above, and an upper phase consisting of 0.08 grams of F-68, 1.0 gram of 1M sodium hydroxide, and 3.0 grams of water was overlaid on the nanostructured reverse bicontinuous cubic phase material and sonicated. Again, a milky-white dispersion of leucine-coated microparticles was formed, where this time the F-68 amphiphilic block copolymer surfactant coated the outer (leucine-based) surface of the particles.

reactant | leucine hydrochloride | 0.152 grams | Cl.N[C@@H](CC(C)C)C(=O)O
reactant | sodium hydroxide | 1M, 1.0 gram | [OH-].[Na+]
solvent | water | 3.0 grams | O | H2O
product | leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
